US08685991B2
Part F. Preparation of N-(4-iodo-3-methylphenyl)methanesulfonamide
A solution of 4-iodo-3-methylaniline (4.37 g, 18.75 mmol) in CH2Cl2 (25 ml) was treated with pyridine (6.07 ml, 75 mmol) followed by drop wise addition of methanesulfonyl chloride (1.607 ml, 20.63 mmol) to give a reddish/orange mixture. The mixture was stirred for 2 h, concentrated and diluted with EtOAc. The EtOAc layer was washed with 1M HCl, water, saturated NaCl, dried (Na2SO4) and filtered. The EtOAc filtrate was treated with activated charcoal for 30 min at 50° C. and filtered through a 10 g silica plug and concentrated to give the title compound as a light yellow solid (5.5 g, 94%).

reactant | 4-iodo-3-methylaniline | 18.75 mmol, 4.37 g | IC1=C(C=C(N)C=C1)C | C7H8IN
reactant | pyridine | 75 mmol, 6.07 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 20.63 mmol, 1.607 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | N-(4-iodo-3-methylphenyl)methanesulfonamide | 5.5 g, 94% | IC1=C(C=C(C=C1)NS(=O)(=O)C)C | C8H10INO2S
